US04328234
A solution of potassium cyanide (10.15 g, 0.156 mol) in water (31.25 ml) was added dropwise to a solution of 1-azabicyclo[2.2.2]-octan-3-one hydrochloride (25.0 g, 0.155 mol) in water (31.25 ml) at 0°-5°. Following the addition, the reaction mixture was stirred for 3 h and then filtered. The solid was washed with ice-cold water (2×15 ml) and was then dried over phosphorus pentoxide overnight, m.p. 155°-156°. Recrystallisation of a 1 g sample from dioxane gave pure 3-cyano-3-hydroxy-1-azabicyclo[2.2.2]octane, m.p. 172°-173°.

reactant | potassium cyanide | 0.156 mol, 10.15 g | [C-]#N.[K+]
reactant | 1-azabicyclo[2.2.2]-octan-3-one hydrochloride | 0.155 mol, 25.0 g | Cl.N12CC(C(CC1)CC2)=O
solvent | water | 31.25 ml | O | H2O
solvent | water | 31.25 ml | O | H2O
product | 3-cyano-3-hydroxy-1-azabicyclo[2.2.2]octane | C(#N)C1(CN2CCC1CC2)O | C8H12N2O
